US06252010B1
Examples of the aprotic polar solvents useful in the present invention include dimethylacetamide, dimethylformamide, dimethyl sulfoxide, N-methyl-2-pyrrolidone, 4-butyrolactone, sulfolane and cyclohexanone. Those boiling at 150 to 210° C., particularly N-methyl-2-pyrrolidone (abbreviated, hereinafter, to “NMP”), are desirable since imide preparations require high temperatures. The water content in the aprotic polar solvent is preferably kept to 0.2% by weight or less because hydration of TMA produces trimellitic acid, which interferes with the reaction and lowers the molecular weight of polymers. The amount of the aprotic polar solvent is preferably such that the diamine (A), the siloxanediamine (B) and trimellitic anhydride (C) make a total of 10 to 70% by weight, more preferably 15 to 35% by weight, based on the total of them with the aprotic polar solvent. A total of diamine (A), the siloxanediamine (B) and trimellitic anhydride (C) of less than 10% by weight is advantageous to industrial production. If (A), (B) and (C) make a total above 70% by weight, the solubilities of TMA (C) and the diimidodicarboxylic acid mixture (Y) will become insufficient to carry out satisfactory reaction.

reactant | dimethylacetamide | CC(=O)N(C)C | C4H9NO
reactant | 4-butyrolactone | C1(CCCO1)=O | C4H6O2
reactant | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | water | O | H2O
solvent | NMP | CN1C(CCC1)=O | C5H9NO
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | trimellitic acid | C(C=1C(C(=O)O)=CC(C(=O)O)=CC1)(=O)O | C9H6O6
